************************************************************************
* auCdl Netlist:
* 
* Library Name:  TIGFET10nm
* Top Cell Name: G3_MIN3_T6_N2
* View Name:     schematic
* Netlisted on:  Apr  1 16:54:31 2022
************************************************************************

.INCLUDE  ~/TIGFET-10nm-PDK/calibre/tigfet.sp
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: TIGFET10nm
* Cell Name:    G3_MIN3_T6_N2
* View Name:    schematic
************************************************************************

.SUBCKT G3_MIN3_T6_N2 A B C Vdd Vss Z
*.PININFO A:I B:I C:I Z:O Vdd:B Vss:B
XI14 Z Vdd C B Vss / TIGFET_PCELL_SP15CP15_N2
XI15 Z Vdd C A Vss / TIGFET_PCELL_SP15CP15_N2
XI18 Z Vss C A Vdd / TIGFET_PCELL_SP15CP15_N2
XI16 Z Vdd A B Vss / TIGFET_PCELL_SP15CP15_N2
XI19 Z Vss A B Vdd / TIGFET_PCELL_SP15CP15_N2
XI17 Z Vss C B Vdd / TIGFET_PCELL_SP15CP15_N2
.ENDS

